US04948886
2,3-Dihydro-1,5-benzothiazepin-4(5H)-one
100 parts by weight of 50% NaOH solution were initially introduced and heated to reflux. 66 parts by weight of benzothiazole were added in the course of 3 hours and the mixture was then stirred under reflux for 2 h. It was then cooled somewhat and acidified at 100° C. with 120 parts by weight of conc. HCl and a further 100 parts by weight of water were then added. 70 parts by weight of a chlorotoluene mixture comprising about 50% o-chlorotoluene and about 50% p-chlorotoluene were added and the separating water phase was separated off. The organic phase was heated to 100° C., 35 parts by weight of acrylic acid were added in the course of 1 hour and the mixture was heated to reflux until water no longer separated from the condensate. The organic phase of the condensate was fed back into the reaction mixture. The mixture was then cooled to about 25° C. and the solid was filtered off with suction. It was washed with 70 parts by weight of the chlorotoluene mixture.

reactant | NaOH | [OH-].[Na+]
reactant | benzothiazole | S1C=NC2=C1C=CC=C2 | C7H5NS
reactant | HCl | Cl | ClH
reactant | chlorotoluene | ClC1=C(C=CC=C1)C | C7H7Cl
reactant | p-chlorotoluene | ClC1=CC=C(C=C1)C | C7H7Cl
solvent | water | O | H2O
product | 2,3-Dihydro-1,5-benzothiazepin-4(5H)-one | S1CCC(NC2=C1C=CC=C2)=O | C9H9NOS
